### PR TITLE
feat(Order/Submodular): define submodular functions and diminishing returns

### PR DESCRIPTION
**Pull request by xingzhicn**
This PR defines submodular, supermodular, and modular functions on general lattices, and proves the diminishing returns property on finite sets.

Main definitions:
- `IsSubmodular f`: `∀ a b, f (a ⊓ b) + f (a ⊔ b) ≤ f a + f b`
- `IsSupermodular f`: `∀ a b, f a + f b ≤ f (a ⊓ b) + f (a ⊔ b)`
- `IsModular f`: `∀ a b, f (a ⊓ b) + f (a ⊔ b) = f a + f b`

Main results:
- `isModular_iff_submodular_and_supermodular`: a function is modular iff it is both submodular and supermodular.
- `IsSubmodular.add_insert_le`: diminishing returns on `Finset`: for `s ⊆ t` and `x ∉ t`, `f s + f (insert x t) ≤ f (insert x s) + f t`.

This lays the foundation for discrete convex analysis, combinatorial optimization, and matroid rank theory.

---

### CODE REVIEW

File: Mathlib/Order/Submodular.lean [hunk 1]
```diff
@@ -0,0 +1,119 @@
+/-
+Copyright (c) 2026 Antigravity & Xingzhi Zhang. All rights reserved.
```
Comment (JX-Mo) [inline Mathlib/Order/Submodular.lean:2]: Is Antigravity someone's name?

File: Mathlib/Order/Submodular.lean [hunk 2]
```diff
@@ -0,0 +1,119 @@
...
+    ext x
+    simp only [Finset.mem_union, Finset.mem_insert]
+    constructor
+    · rintro (⟨rfl | hxA⟩ | hxB)
+      · exact Or.inl rfl
+      · exact Or.inr (hAB hxA)
+      · exact Or.inr hxB
+    · rintro (rfl | hxB)
+      · exact Or.inl (Or.inl rfl)
+      · exact Or.inr hxB
```
Comment (JX-Mo) [inline Mathlib/Order/Submodular.lean:111]:
```suggestion
  have h_inter : (insert e A) ∩ B = A := by aesop
  have h_union : (insert e A) ∪ B = insert e B := by aesop
```

**Comment by vlad902** [comment]
Since I believe antigravity is AI-related, please see "Use of AI" in https://leanprover-community.github.io/contribute/index.html. In particular, you should note what you used AI for under the commit message (under `--`) and comment `LLM-generated`

File: Mathlib/Order/Submodular.lean [hunk 3]
```diff
@@ -0,0 +1,119 @@
+/-
+Copyright (c) 2026 Antigravity & Xingzhi Zhang. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Xingzhi Zhang
+-/
+module
+
+public import Mathlib.Order.Lattice
+public import Mathlib.Algebra.Order.Group.Defs
+public import Mathlib.Data.Finset.Basic
```
Comment (pepamontero) [inline Mathlib/Order/Submodular.lean:10]: You can use `#min_imports` at the end of the file to see which minimal imports you need for your file.

For me it suggest these:


```suggestion
public import Mathlib.Data.Finset.Insert
public import Mathlib.Data.Finset.Lattice.Basic
```

At the beginning it also suggested `Mathlib.Algebra.Group.Monoid` but this one can be dropped (see a comment below on the last theorem)

File: Mathlib/Order/Submodular.lean [hunk 4]
```diff
@@ -0,0 +1,119 @@
...
+
+## References
+
+* L. Lovász, *Submodular functions and convexity*,
+  Mathematical Programming: The State of the Art, 1983.
+-/
+
+@[expose] public section
+
+variable {α β : Type*}
```
Comment (pepamontero) [inline Mathlib/Order/Submodular.lean:43]: You can probably add here 

```suggestion
variable {α β : Type*} [Lattice α] [Add β]
```

since it is used throughout the file (then you can drop them below).

File: Mathlib/Order/Submodular.lean [hunk 5]
```diff
@@ -0,0 +1,119 @@
...
+  ∀ a b : α, f a + f b ≤ f (a ⊓ b) + f (a ⊔ b)
+
+/-- A function `f : α → β` on a lattice `α` is modular if
+`f (a ⊓ b) + f (a ⊔ b) = f a + f b` for all `a, b : α`. -/
+def IsModular [Lattice α] [Add β] (f : α → β) : Prop :=
+  ∀ a b : α, f (a ⊓ b) + f (a ⊔ b) = f a + f b
+
+section Basic
+
+variable [Lattice α]
```
Comment (pepamontero) [inline Mathlib/Order/Submodular.lean:62]: (See above) you would no longer need this.

File: Mathlib/Order/Submodular.lean [hunk 6]
```diff
@@ -0,0 +1,119 @@
...
+    IsModular f ↔ IsSubmodular f ∧ IsSupermodular f := by
+  constructor
+  · intro h
+    refine ⟨fun a b => le_of_eq (h a b), fun a b => le_of_eq (h a b).symm⟩
+  · rintro ⟨h_sub, h_sup⟩ a b
+    exact le_antisymm (h_sub a b) (h_sup a b)
+
+theorem IsModular.isSubmodular [Add β] [Preorder β] {f : α → β} (h : IsModular f) :
+    IsSubmodular f :=
+  fun a b => le_of_eq (h a b)
```
Comment (pepamontero) [inline Mathlib/Order/Submodular.lean:74]:
```suggestion
  fun a b ↦ le_of_eq (h a b)
```

File: Mathlib/Order/Submodular.lean [hunk 7]
```diff
@@ -0,0 +1,119 @@
...
+
+theorem IsModular.isSupermodular [Add β] [Preorder β] {f : α → β} (h : IsModular f) :
+    IsSupermodular f :=
+  fun a b => ge_of_eq (h a b)
```
Comment (pepamontero) [inline Mathlib/Order/Submodular.lean:78]:
```suggestion
  fun a b ↦ ge_of_eq (h a b)
```

File: Mathlib/Order/Submodular.lean [hunk 8]
```diff
@@ -0,0 +1,119 @@
...
+
+section Basic
+
+variable [Lattice α]
+
+theorem isModular_iff_submodular_and_supermodular [Add β] [PartialOrder β] (f : α → β) :
+    IsModular f ↔ IsSubmodular f ∧ IsSupermodular f := by
+  constructor
+  · intro h
+    refine ⟨fun a b => le_of_eq (h a b), fun a b => le_of_eq (h a b).symm⟩
```
Comment (pepamontero) [inline Mathlib/Order/Submodular.lean:68]: I think for this type of thing \mapsto is preferred.

Also if you give a term that closes the goal, you tipically use exact instead:


```suggestion
    exact ⟨fun a b ↦ le_of_eq (h a b), fun a b ↦ le_of_eq (h a b).symm⟩
```

File: Mathlib/Order/Submodular.lean [hunk 9]
```diff
@@ -0,0 +1,119 @@
...
+      · exact Or.inl rfl
+      · exact Or.inr (hAB hxA)
+      · exact Or.inr hxB
+    · rintro (rfl | hxB)
+      · exact Or.inl (Or.inl rfl)
+      · exact Or.inr hxB
+  have h_sub_ineq := h_sub (insert e A) B
+  rw [Finset.inf_eq_inter, Finset.sup_eq_union] at h_sub_ineq
+  rw [h_inter, h_union] at h_sub_ineq
+  exact h_sub_ineq
```
Comment (pepamontero) [inline Mathlib/Order/Submodular.lean:115]: On top of the comment above (using aesop) you could shorten this like this:

```suggestion
  simpa [h_inter, h_union] using h_sub (insert e A) B
```

since the Finset are simp lemmas. Another approach could be:

```
  have h_sub_ineq := h_sub (insert e A) B
  rwa [Finset.inf_eq_inter, Finset.sup_eq_union, h_inter, h_union] at h_sub_ineq
```

Terminal simp is fine but maybe the latter is more readable.

File: Mathlib/Order/Submodular.lean [hunk 10]
```diff
@@ -0,0 +1,119 @@
...
+
+end Basic
+
+section FinsetDiminishingReturns
+
+variable {ι : Type*} [DecidableEq ι]
+
+/-- The diminishing returns property of a submodular function on `Finset ι`:
+adding an element `e` to a larger set `B` yields no more gain than adding it to a subset `A`. -/
+theorem IsSubmodular.add_insert_le {β : Type*} [AddCommMonoid β] [Preorder β]
```
Comment (pepamontero) [inline Mathlib/Order/Submodular.lean:88]: You can prove the same using

```suggestion
theorem IsSubmodular.add_insert_le {β : Type*} [Add β] [LE β]
```

is there a reason you strengthen the hypothesis? Like this the `Mathlib.Algebra.Group.Monoid` import can be dropped.

File: Mathlib/Order/Submodular.lean [hunk 11]
```diff
@@ -0,0 +1,119 @@
...
+* `IsSupermodular f`: A function `f : α → β` is supermodular if for all `a b : α`,
+  `f a + f b ≤ f (a ⊓ b) + f (a ⊔ b)`.
+* `IsModular f`: A function `f : α → β` is modular if for all `a b : α`,
+  `f (a ⊓ b) + f (a ⊔ b) = f a + f b`.
+
+## Main Results
+
+* `isModular_iff_submodular_and_supermodular`: In an ordered structure,
+  a function is modular if and only if it is both submodular and supermodular.
+* `IsSubmodular.diminishing_returns`: On finite sets, submodularity implies
```
Comment (pepamontero) [inline Mathlib/Order/Submodular.lean:31]: This result doesn't seem to exist anymore. Did you mean to add `IsSubmodular.add_insert_le`?

Also it seems `section FinsetDiminishingReturns` below references this as well. Maybe the section should get a different name? `section Finset` might suffice

File: Mathlib/Order/Submodular.lean [hunk 12]
```diff
@@ -0,0 +1,119 @@
...
+
+public import Mathlib.Order.Lattice
+public import Mathlib.Algebra.Order.Group.Defs
+public import Mathlib.Data.Finset.Basic
+
+/-!
+# Submodular, Supermodular, and Modular Functions
+
+This file defines submodular, supermodular, and modular functions on a lattice,
+and establishes their fundamental properties including duality and diminishing returns.
```
Comment (pepamontero) [inline Mathlib/Order/Submodular.lean:16]: Is "duality" maybe an open TODO? You can add a `## TODO` sections with things you think are worth doing in another PR.

**Review by pepamontero — COMMENTED** [review]
Hi! Congratulations on your first PR :)

I have left a number of comments, but they're all really small changes about style and such. I find the file is very organized and overall looks good. I hope they help you!

However I must say I cannot judge the mathematical content of this well as I'm not an expert; adding (the right) definitions to Mathlib is very hard and they tipically need a lot of review from people who know the area well.

If you haven't already, I suggest you post on Zulip linking the PR and asking about the definitions (i.e. are they in the right generality, the right place; does this overlap with any other works...). I think you'll get answers more quickly there.
